US07820699B2
6.3 Using general procedure A 5-chloro-thiophene-2-carboxylic acid (R)-pyrrolidin-3-ylamide hydrochloride was reacted with ethyl-2-bromopropionate to give 2-{(R)-3-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidin-1-yl}-propionic acid ethyl ester. Oil. MS 329.1 ([M−H]−)

reactant | 5-chloro-thiophene-2-carboxylic acid (R)-pyrrolidin-3-ylamide hydrochloride | Cl.N1C[C@@H](CC1)NC(=O)C=1SC(=CC1)Cl
reactant | ethyl-2-bromopropionate | C(C)OC(C(C)Br)=O | C5H9BrO2
product | 2-{(R)-3-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidin-1-yl}-propionic acid ethyl ester | C(C)OC(C(C)N1C[C@@H](CC1)NC(=O)C=1SC(=CC1)Cl)=O | C14H19ClN2O3S
